US07084139B2
3-{[tert-Butyl(dimethyl)silyl]oxy}-4-chlorobenzaldehyde
A mixture of 4-chloro-3-hydroxy-benzaldehyde* (0.354 g), 4-N,N-dimethylaminopyridine (0.028 g), tert-butyldimethylsilyl chloride (0.409 g) and triethylamine (0.473 ml) in DCM (15 ml) was stirred at room temperature under nitrogen for 19 h. The mixture was quenched with saturated aqueous sodium bicarbonate and extracted with diethyl ether. The combined organic extracts were concentrated under reduced pressure to give an oil which was purified using SPE (silica, eluting with cyclohexane followed by 10% to 30% ethyl acetate-cyclohexane) to give the title compound (0.42 g) as an oil. *Kelley, J; Linn, J; Selway, J. W. T., J. Med. Chem. (1989), 32(8), 1757–63.

reactant | 4-chloro-3-hydroxy-benzaldehyde | ClC1=C(C=C(C=O)C=C1)O | C7H5ClO2
reactant | tert-butyldimethylsilyl chloride | 0.409 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.473 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-{[tert-Butyl(dimethyl)silyl]oxy}-4-chlorobenzaldehyde | 0.42 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=CC1Cl | C13H19ClO2Si
